US04652556
Preparation of 2-Amino-2-phenyl-propionitrile hydrochloride
To a stirred solution of 3.8 g (0.058 mole) potassium cyanide in 7 ml water, a solution of 3.6 g (0.066 mole) ammonium chloride in 8 ml water was added. To the resulting mixture, 3.5 g (3.9 ml [0.10 mole]) ammonium hydroxide were added, followed by 7 g (0.058 mole) acetophenone dissolved in 10 ml methanol. The reaction mixture was heated at about 45°-55° C. for 18 hours. The black mixture was poured into water and extracted with methylene chloride. The methylene chloride extract was washed 4 times with water, dried over sodium sulfate, filtered and stripped. The residue was dissolved in ether. Hydrogen chloride gas was bubbled through the solution to precipitate 2 g of the above-identified hydrochloride salt, as a yellow solid.

reactant | potassium cyanide | 0.058 mole, 3.8 g | [C-]#N.[K+]
reactant | ammonium chloride | 0.066 mole, 3.6 g | [Cl-].[NH4+]
reactant | ammonium hydroxide | 0.10 mole, 3.9 ml, 3.5 g | [OH-].[NH4+]
reactant | acetophenone | 0.058 mole, 7 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | methanol | 10 ml | CO | CH4O
solvent | water | 7 ml | O | H2O
solvent | water | 8 ml | O | H2O
product | 2-Amino-2-phenyl-propionitrile hydrochloride | Cl.NC(C#N)(C)C1=CC=CC=C1 | InChI=1S/C9H10N2.ClH/c1-9(11,7-10)8-5-3-2-4-6-8;/h2-6H,11H2,1H3;1H
